US05026856
7-(4-chloro-2-isoindolinyl)-1-cyclopropyl-5-(2-hydroxyethylamino)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
205 mg of 1-cyclopropyl-5-(2-hydroxyethylamino)-6,7,8- trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 101 mg of 4-chloroisoindoline, 182 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 100 mg of the target compound.

reactant | 1-cyclopropyl-5-(2-hydroxyethylamino)-6,7,8- trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 205 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)NCCO)=O)C(=O)O | C15H13F3N2O4
reactant | 4-chloroisoindoline | 101 mg | ClC1=C2CNCC2=CC=C1 | C8H8ClN
reactant | DBU | 182 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-chloro-2-isoindolinyl)-1-cyclopropyl-5-(2-hydroxyethylamino)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 100 mg | ClC1=C2CN(CC2=CC=C1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)NCCO)F | C23H20ClF2N3O4
